US04288437
(E)-2-[(Amino)(3-methyl-phenyl)methylene]-benzo[b]thiophen-3(2H)-one
Prepared as in Example 1 from 2-(3-methylbenzoyl)-benzo[b]-thiophen-3-ol, phosphorus(V) chloride and concentrated ammonia with a yield of 36% of theory. M.p. 114°-115° C. (ethyl acetate/petroleum ether 1:1)

reactant | 2-(3-methylbenzoyl)-benzo[b]-thiophen-3-ol | CC=1C=C(C(=O)C2=C(C3=C(S2)C=CC=C3)O)C=CC1 | C16H12O2S
reactant | phosphorus(V) chloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | ammonia | N | H3N
product | (E)-2-[(Amino)(3-methyl-phenyl)methylene]-benzo[b]thiophen-3(2H)-one | yield of 36% | N\C(=C\1/C(C2=C(S1)C=CC=C2)=O)\C2=CC(=CC=C2)C | C16H13NOS
